Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
speech changes, falls, incoordination, dizziness
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
As per Dr. ___ Note:
"Mrs. ___ is a ___ year old right handed woman with past 
medical
history of breast cancer (ER+/PR+, Her2) with metastasis to the
surrounding lymph nodes and possibly lungs (diagnosed ___
currently on chemotherapy.  She has had MRI brain and pan ___
with contrast which were negative for metastasis (___).  She
had lumbar puncture in ___ which had WBC 1, protein 27, and
glucose of 71.  Paraneoplastic CSF studies were negative.  She
has also had extensive negative work up for tic-borne illnesses. 

She he been presumed by her outpatient neurologist to have a
paraneoplastic syndrome with cerebellar involvement.  She is
receiving IVIG every month for this.  There is also has some
symptoms concerning for parkinsonism.  She therefore takes
carbidopa-levodopa 50-200 mg three times daily. 

She first started to appreciate a change in voice in the second
half of ___.  Her voice was noticed by herself and by family to
have become slurred and the volume lower than normal.  She
initially first noticed this at the night when she became tired,
but over time her voice is now affected all of the time.  She
also noticed that she was having difficulty with swallowing,
particularly liquids.  This over time has become worse.  She,
though, reports that she has had swallow studies that she has
been told are normal. 

Ms. ___ reports that in the first part of ___ that she 
started
to become dizzy and was experiencing multiple falls because of
the dizziness.  The dizziness is really a sense of
incoordination, but sometimes she has lightheadedness and
vertigo.  She feels more incoordinated on the right side 
compared
to the left side. She has had multiple falls as a result.  She,
in particular, had a mechanical fall in ___ and broke her
left hip.  She has been using a walker since.  She last fell two
weeks ago, but was ok after the fall.   

She is uncertain when she started to become weak, but feels that
particularly over the later portion of ___ she became
progressively weaker.  She is particularly concerned that her
right arm has lost fine motor skills and that she is having
shuffling of her gait because her right leg is not moving as
much.  She feels that her strength on the left side is good.  
She
denies tremor at rest, but does notice one with action.  She
denies rigidity.  She appreciates that she moves much slower 
than
she once did.   

She has a tingling and numbness sensation throughout her entire
body, but particularly in the fingers and toes.  She is
uncertain, but feels that this might have started to occur after
she started to take her chemotherapeutic medication.      

She has been taking IVIG on a monthly basis for presumed
paraneoplastic syndrome and feels that after she gets her IVIG
that for a day or so she feels much better.  Her husband notes
that sometimes her voice improves for a day or two and she seems
to be more active and to have more energy.  She feels that
carbidopa-levodopa has not been of benefit whatsoever.   

She would like a second opinion regarding her clinical picture 
as
she has felt overall that her symptoms are progressing and not
responding to current management.  She was initially supposed to
go to ___ for second opinion, but was notified that her 
insurance
was not accepted there so chose to come here instead."

Patient was following in neurology with Dr. ___ ___ 
___. In review of some of those notes, it 
was
noted patient was orthostatic at one point and on midodrine for 
a
period of time for the orthostasis, though not currently.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with
comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty. Denies focal
muscle weakness, numbness, parasthesia. Denies loss of 
sensation.
Denies bowel or bladder incontinence or retention. Denies
difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Breast cancer with spread to local lymph nodes
 
Social History:
___
Family History:
No history of autoimmune conditions.
Mother with neck cancer, unspecified                         

 
Physical Exam:
UPON ADMISSION:
===============
Vitals:  
T97.7 HR85 BP134/72 RR18 SpO2 100% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented ___. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Names ___ objects correctly on iBoca naming testing. Calls
llama a sheep.  Able to read without difficulty. Hypophonic. 
Able
to follow both midline and appendicular commands. Finger
substitution with trying to comb. Able to copy finger figures
with both hands. Does not demonstrate how to use a screwdriver 
or
hammer a nail correctly.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation hypometric saccades. upgaze ok. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5  

R hand bradykinetic, small amplitude, slow movements for finger
tap, hand open/close, wrist turn, toe and heel tap. L hand
affected some, but much more on R.
Tone is increased on both sides but worse on the R. This is
worsened with facilitation.  

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense,throughout. No extinction to DSS.
no agraphesthesia. decreased proprioception to small amplitude
movements in toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2

pec jerk supra patellar b/l.

Plantar response was flexor bilaterally.

-Coordination: dysmetria on FNF R>L. Alternating movements are
difficult R>L. 

-Gait: narrow based. Short steps, with stooped posture.

AT DISCHARGE:
==============
24 HR Data (last updated ___ @ 1516)
    Temp: 98.3 (Tm 98.7), BP: 102/68 (89-149/54-76), HR: 82 
(63-112), RR: 16 (___), O2 sat: 99% (92-99), O2 delivery: Ra  

___ 0753 BP: 113/72 R Lying BP: 89/54 R Sitting 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Extremities: 1+ edema BLLE
Skin: hyperpigmentation over left shin

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name. ___ backward without difficulty. Language is 
fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Able to state 7 quarters in $1.75. Pt
was able to name both high and low frequency objects.  Speech
with spastic dysarthria. Able to follow both midline and
appendicular commands. Pt was able to register 3 objects and
recall ___ at 5 minutes. The pt had good knowledge of current
events. There was no evidence of apraxia (although movement slow
and with decreased amplitude) or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Hypometric saccades with
impaired smooth pursuit.
V: Facial sensation intact to light touch.
VII: left eye smaller than right but appears physiologic rather
than droop, smile symmetric. hypomimia 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk. Increased tone (rigidity) throughout, R>L,
legs>arms. Bradykinetic, small amplitude hand movements R>Lght. 
No resting tremor, but has prominent action tremor bilaterally. 
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense,throughout. No extinction to DSS.
no agraphesthesia. decreased proprioception to small amplitude
movements in toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   3
R  3  3    3    3   3
pec jerk supra patellar b/l. ___ beats clonus on left

Plantar response was flexor bilaterally.

-Coordination: dysmetria on FNF R>L and HKS. dysdiadochokinesia
R>L. 
-Gait: Short, suffling, steps, with stooped posture and 
decreased arm swing, R>L.
 
Pertinent Results:
Labs:
======
___ 05:40PM BLOOD WBC-3.6* RBC-3.48* Hgb-12.5 Hct-36.6 
MCV-105* MCH-35.9* MCHC-34.2 RDW-12.3 RDWSD-47.4* Plt ___
___ 05:40PM BLOOD ___ PTT-25.5 ___
___ 05:40PM BLOOD Glucose-80 UreaN-12 Creat-1.0 Na-142 
K-4.3 Cl-101 HCO3-23 AnGap-18
___ 05:40PM BLOOD ALT-30 AST-24 AlkPhos-139* TotBili-0.5
___ 11:34PM BLOOD Lipase-59
___ 05:40PM BLOOD Albumin-4.3 Calcium-10.0 Phos-3.7 Mg-2.2
___ 11:34PM BLOOD VitB12-253 Folate-18

___ 06:50PM CEREBROSPINAL FLUID (CSF)
 TNC-1 RBC-48* Polys-5 ___ Monos-15
 TNC-2 RBC-171* Polys-30 ___ Monos-7
 TotProt-28 Glucose-61

   GRAM STAIN CSF (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
       
___ 06:50PM CEREBROSPINAL FLUID (CSF) PARANEOPLASTIC 
AUTOANTIBODY EVALUATION, CSF-PND
___ 06:50PM CEREBROSPINAL FLUID (CSF) MULTIPLE SCLEROSIS 
(MS) PROFILE-PND

DIAGNOSTICS:
=============
MR ___:
IMPRESSION: 
1. No evidence of metastatic disease.  No abnormal enhancement. 
2. Degenerative changes are most extensive in the cervical ___ 
which result 
in up to moderate to severe canal narrowing at C5-6 where there 
is remodeling 
of the cord though no cord signal abnormality. 
3. Multilevel neural foraminal narrowing, most extensive and 
moderate to 
severe bilaterally at C4-5 and on the left at C5-6. 
4. Degenerative changes in the lumbar ___ without significant 
canal 
narrowing.  Moderate bilateral foraminal narrowing at L5-S1. 

MR brain ___:
IMPRESSION: 
1. No evidence of intracranial metastatic disease.  No abnormal 
enhancement. 
2. Slit like T2 hyperintensity with atrophy of the putamen, left 
more so than right.  This finding can be seen in setting of 
multiple systemic atrophy with predominant parkinsonism or 
___ disease.  Global volume loss, including cerebellar 
volume loss without brainstem atrophy. 

 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman with PMH of metastatic breast 
cancer (diagnosed ___ on chemotherapy with previous workup 
negative for CNS involvement of cancer who presented to 
neurology clinic for evaluation of abnormal speech, 
incoordination, and frequent falls which progressed over ___ 
years. She previously had negative MRI ___, unremarkable 
LP, negative paraneoplastic panel in ___. She has been 
on IVIG for possible paraneoplastic syndrome. She was 
subsequently sent in for admission for expedited workup for 
leptomeningeal disese or paraneoplastic disease in relation to 
her breast cancer.

She had a MR brain ___ which did NOT show evidence of 
metastatic or leptomeningeal disease. It DID show atrophy of the 
putamen, left more so than right. This finding can be seen in 
setting of multiple systemic atrophy with predominant 
parkinsonism or ___ disease. Also revealed global volume 
loss, including cerebellar volume loss without brainstem 
atrophy. MR ___ showed no evidence of metastatic disease or 
abnormal enhancement of cord. She had degenerative changes C5-6 
with multilevel neural foraminal narrowing, most extensive and 
moderate to severe bilaterally at C4-5 and on the left at C5-6. 
Degenerative changes without significant canal narrowing at 
L5-S1. She was evaluated by the Spinal Surgeons who said there 
was no need for surgical intervention at this time. LP was 
overall bland, paraneoplastic panel, cytology, and MS profile in 
___ were pending at time of discharge. When first admitted, she 
endorsed that carbidopa- levodopa was not effective. However the 
medication was held for 2 days and she felt significantly 
weaker, so it was continued upon discharge.

Her exam is notable for hypophonia, bradykinesia, apraxia, 
rigidity, ataxia, hyperreflexia. Overall exam and clinical 
picture consistent with MSA-P. 

While admitted patient was noted to have orthostatic 
hypotension, likely contributing to dizziness when standing and 
multiple falls. The following lifestyle changes are to be made, 
and if not effective, can consider fludricortisone as an 
outpatient.
1. Drink 6 bottles of water a day
2. Wear thigh high compression stockings and spanks to keep the 
blood from pooling in your legs
3. When sitting up or standing up, do so slowly and take a few 
minutes to adjust to the change in position.
4. Sleep with your head elevated

=====================================================
TRANSITIONAL ISSUES:
[] Neurology Follow Up 
- No changes to medications were made
- F/U CSF paraneoplastic panel, cytology, and MS profile
[] Neurology - Autonomics for Orthostatic Hypotension
- Instructed with lifestyle modifications prior to discharge 
- Consider fludricortisone if no improvement
[] Neurosurgery Follow up ___ weeks

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. abemaciclib 150 mg oral BID 
2. Letrozole 2.5 mg PO DAILY 
3. Carbidopa-Levodopa CR (50-200) 1 TAB PO TID 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  abemaciclib 150 mg oral BID  
2.  Carbidopa-Levodopa CR (50-200) 1 TAB PO TID  
3.  Letrozole 2.5 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.Outpatient Physical Therapy
ICD 9 :G90.3 
6.Outpatient Occupational Therapy
ICD ___.3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orthostatic Hypotension
Movement Disorder, most likely Multiple Systems Atrophy vs 
Parkinsons

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were admitted to the ___ Neurology service for progression 
of speech difficulties, incoordination, and frequent falls. We 
were able to perform an expedited work up with a MR brain, MR 
___, and lumbar puncture.

The MR of your brain did NOT show evidence of metastatic 
disease. It DID show loss of volume in part of your brain which 
is important for movement and part of your brain which is 
important for coordination. These findings are concerning for a 
movement disorder, and ___ will need to follow up with your 
neurologists as an outpatient for further treatment and 
monitoring.

The MR of your spinal cord showed some arthritis and chronic 
changes in your neck. ___ were evaluated by the Spinal Surgeons 
who said this is not likely the cause of your symptoms and ___ 
do not need surgical intervention at this time.

Your lumbar puncture did not show signs of inflammation or 
infection. Some studies are still pending however, and ___ will 
need to follow up for these results.

** When ___ sit or stand, your blood pressure drops. This is 
called orthostatic hypotension and can cause ___ to feel dizzy 
and fall** It is important that ___ do the following:
1. Drink 6 bottles of water a day
2. Wear thigh high compression stockings and spanks to keep the 
blood from pooling in your legs
3. When sitting up or standing up, do so slowly and take a few 
minutes to adjust to the change in position.
4. Sleep with your head elevated

No changes were made to your medications at time of discharge. 
We held your carbidopa-levodopa during admission, but as ___ 
felt weaker off of it, it should be continued at discharge.

Please follow up with your primary Neurologists Drs. ___ 
___ and Dr. ___ in the neurology department) for 
management of orthostatic hypotension. These appointments have 
been requested as below. ___ should also follow up with 
Neurosurgery to monitor the changes in your ___.

It was a pleasure taking care of ___.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___